US03987171
A suspension of 5.0 parts of 6-chloro-2,3-diaminoquinoxaline in 75 parts of tetrahydrofuran (THF) and 15 parts of propionic anhydride was stirred overnight at room temperature. The reaction mixture was filtered and the filter cake was washed with n-butyl chloride and dried to yield 3.7 parts of yellow solid. Recrystallization from THF gave pale yellow crystals of 3-amino-6-chloro-2-propionamidoquinoxaline, m.p. 300.5°-302.5°.

reactant | 6-chloro-2,3-diaminoquinoxaline | ClC=1C=C2N=C(C(=NC2=CC1)N)N | C8H7ClN4
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-amino-6-chloro-2-propionamidoquinoxaline | NC=1C(=NC2=CC=C(C=C2N1)Cl)NC(CC)=O | C11H11ClN4O
